US06930109B2
(6R)-Toluene-4-sulfonic acid 7,8-dihydro-6H-5-oxa-1-aza-phenanthren-6-ylmethyl ester
A solution of (6R)-(7,8-dihydro-6H-5-oxa-1-aza-phenanthren-6-yl)-methanol (0.38 g, 1.8 mmole) and p-toluenesulfonyl chloride (0.67 g, 3.5 mmole) in anhydrous pyridine (50 mL) was allowed to stir for 24 hours and then the solvent was removed in vacuum. The residue was dissolved in ethyl acetate (50 mL) and washed with water (3×30 mL). The organic layer was dried over sodium sulfate and filtered, and the solvent was removed under vacuum. Column chromatography on silica gel (50% methylene chloride/hexane) afforded 0.62 g (95%) of the title compound as a solid, mp 123° C., [α]25D=−27.71° (c=5.0, CHCl3).

reactant | (6R)-(7,8-dihydro-6H-5-oxa-1-aza-phenanthren-6-yl)-methanol | 1.8 mmole, 0.38 g | N1=CC=CC2=C3O[C@H](CCC3=CC=C12)CO | C13H13NO2
reactant | p-toluenesulfonyl chloride | 3.5 mmole, 0.67 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | (6R)-Toluene-4-sulfonic acid 7,8-dihydro-6H-5-oxa-1-aza-phenanthren-6-ylmethyl ester | 0.62 g, 95% | N1=CC=CC2=C3O[C@H](CCC3=CC=C12)COS(=O)(=O)C1=CC=C(C=C1)C | C20H19NO4S
